US07592373B2
(E)-N-(4′-chlorobiphenyl-4-yl)-3-{4-[(cyclopentylmethylamino)methyl]phenyl}acrylamide
A reaction mixture of 200 mg (0.523 mmol) of (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-chloromethylphenyl)acrylamide, 295 mg (1.56 mmol) of cyclopentylmethylamine oxalic acid acetate and 0.44 mL (3.12 mmol) of triethylamine in 5 mL of THF is refluxed for 18 hours. Then the reaction mixture is poured onto water and the precipitate formed is suction filtered. Further purification is carried out by column chromatography on silica gel (eluant: dichloromethane/methanol (10:1)). Yield: 10 mg (4% of theory); C28H29ClN2O (M=445.0); melting point: 209° C.-210° C.; calc.: molecular ion peak (M+H)+: 445/447 (Cl); found: molecular ion peak (M+H)+: 445/447 (Cl).

reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-chloromethylphenyl)acrylamide | 0.523 mmol, 200 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CCl)=O | C22H17Cl2NO
reactant | cyclopentylmethylamine oxalic acid acetate | 1.56 mmol, 295 mg | C(C)(=O)O.C(C(=O)O)(=O)O.C1(CCCC1)CN
reactant | triethylamine | 3.12 mmol, 0.44 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (E)-N-(4′-chlorobiphenyl-4-yl)-3-{4-[(cyclopentylmethylamino)methyl]phenyl}acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CNCC1CCCC1)=O | C28H29ClN2O
